US04120969
4-Chloromethyl-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone
To 60.0 g. (0.17 mole) of 1-cyclohexyl-4-hydroxymethyl-3,3-diphenyl-2-pyrrolidinone in 400 ml. of chloroform was added 48.0 g. (0.40 mole) of thionylchloride with stirring. To this solution was added dropwise with ice bath cooling 40 g. (0.52 mole) of dry pyridine and the solution was refluxed for 2 hours. After concentrating in vacuo the residue was dissolved in chloroform and washed successively with dilute hydrochloric acid solution and dilute sodium hydroxide solution. The chloroform solution was dried (sodium sulfate), filtered, and concentrated in vacuo. The residue was recrystallized from isopropyl ether and after drying weighed 34.5 g. (55% yield) and melted at 124°-126° C.

reactant | 1-cyclohexyl-4-hydroxymethyl-3,3-diphenyl-2-pyrrolidinone | 0.17 mole | C1(CCCCC1)N1C(C(C(C1)CO)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C23H27NO2
reactant | thionylchloride | 0.40 mole | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.52 mole | N1=CC=CC=C1 | C5H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Chloromethyl-1-cyclohexyl-3,3-diphenyl-2-pyrrolidinone | 55% yield | ClCC1C(C(N(C1)C1CCCCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H26ClNO
